US04011335
By the procedure of Example 1, 1-bromo-3,7-dimethyl-2,6-decadien is reacted with sesamol to obtain 4-[(3,7-dimethyl-2,6-decadienyl)-oxy]-1,2-(methylenedioxy)-benzene of boiling point (bulb tube) 140° C./0.025 mm Hg.; nD23 = 1.5237.

reactant | 1-bromo-3,7-dimethyl-2,6-decadien | BrCC=C(CCC=C(CCC)C)C | C12H21Br
reactant | sesamol | C1OC2=C(O1)C=C(C=C2)O | C7H6O3
product | 4-[(3,7-dimethyl-2,6-decadienyl)-oxy]-1,2-(methylenedioxy)-benzene | CC(=CCOC1=CC2=C(C=C1)OCO2)CCC=C(CCC)C | C19H26O3
